* ECC83/12AX7 cathode follower matching core/src/circuit/triode.rs.
* Run with: ngspice -b cathode_follower_12ax7.cir

.param BRAW=280

VRAW bplus 0 DC {BRAW}

VIN in 0 SIN(0 20m 1k)
CIN in grid 47n
RGRID grid 0 1Meg

RK cath 0 100k
XTRIODE bplus grid cath 12AX7_KOREN

.save v(in) v(grid) v(cath) v(bplus) i(VRAW)

.control
set filetype=ascii
op
print v(grid) v(cath) v(bplus)
tran 1u 100m 0 1u
wrdata /tmp/boutique59_cathode_follower_12ax7.dat v(in) v(grid) v(cath) v(bplus)
quit
.endc

* Koren-style triode approximation. This mirrors the common-cathode fixture so
* differences are due to topology rather than tube model parameters.
.subckt 12AX7_KOREN P G K
.param MU=100 EX=1.4 KG1=1060 KP=600 KVB=300
E1 n1 0 VALUE={ln(1 + exp(KP * (1 / MU + V(G,K) / max(V(P,K), 1)))) / KP}
G1 P K VALUE={(V(P,K) / KG1) * pow(max(V(n1), 0), EX) * sqrt(max(V(P,K), 0) / KVB)}
Cpk P K 1.7p
Cgp G P 1.6p
Cgk G K 1.6p
.ends 12AX7_KOREN

.end
